US07919628B2
96 mg 1-{[1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester in 0.5 ml THF, 0.62 ml of 2 M sodium hydroxide and 1.4 ml methanol were reacted in a microwave at 120° C. for 6 min. The reaction was then acidified with 2 M hydrochloric acid and extracted with ethyl acetate twice. The combined organic layers were dried over magnesium sulphate, and concentrated to yield 47 mg of 1-{[1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carbonyl]-amino}-cyclopentanecarboxylic acid.

reactant | 1-{[1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester | 96 mg | COC(=O)C1(CCCC1)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC1COC2=C(O1)C=CC=C2 | C27H27NO6
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 2 M, 0.62 ml | [OH-].[Na+]
solvent | methanol | 1.4 ml | CO | CH4O
product | 1-{[1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carbonyl]-amino}-cyclopentanecarboxylic acid | 47 mg | O1C(COC2=C1C=CC=C2)COC2=C(C=CC1=CC=CC=C21)C(=O)NC2(CCCC2)C(=O)O | C26H25NO6
